US04271163
4.4 g (17.4 millimoles) of cis-2-(m-nitrobenzoyl)-cyclopropanecarboxylic acid hydrate, 1.05 g (21.0 millimoles) of hydrazine hydrate and 100 ml of ethanol are refluxed for 7 hours. After filtering off the product at 10° C. and drying it under reduced pressure at 50° C., 2.8 g (70% of theory) of 2-(m-nitrophenyl)-3,4-diazabicyclo[4.1.0]hept-2-en-5-one are obtained as pale yellow crystals, of melting point 220°-221° C.

reactant | cis-2-(m-nitrobenzoyl)-cyclopropanecarboxylic acid hydrate | 17.4 millimoles, 4.4 g | O.[N+](=O)([O-])C=1C=C(C(=O)[C@@H]2[C@@H](C2)C(=O)O)C=CC1
reactant | hydrazine hydrate | 21.0 millimoles, 1.05 g | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(m-nitrophenyl)-3,4-diazabicyclo[4.1.0]hept-2-en-5-one | 2.8 g, 70% | [N+](=O)([O-])C=1C=C(C=CC1)C=1C2CC2C(NN1)=O | C11H9N3O3
